US07435815B2
[(5-Isopropyl-pyridine-2-sulfonyl)-(2-methoxy-phenyl)-amino]-acetic acid
prepared by reaction of 5-isopropyl-pyridine-2-sulfonic acid (2-methoxy-phenyl)-amide with tert-butyl bromoacetate

reactant | 5-isopropyl-pyridine-2-sulfonic acid (2-methoxy-phenyl)-amide | COC1=C(C=CC=C1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C | C15H18N2O3S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(5-Isopropyl-pyridine-2-sulfonyl)-(2-methoxy-phenyl)-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C1=C(C=CC=C1)OC)CC(=O)O | C17H20N2O5S
